US08975250B2
14.1: 2-Difluoromethoxy-4-fluoro-1-nitrobenzene
To a solution of 3.14 g (20.0 mmol) 5-fluoro-2-nitrophenol in 36 mL of DMF are added 6.1 g (40.0 mmol) of sodium chlorodifluoroacetate and 3.31 g (24.0 mmol) of powdered sodium carbonate. The reaction mixture is heated at 100°C. for 4 hours 30 minutes and is then allowed to cool to room temperature. Aqueous 4N HCl solution is added and the mixture is stirred at room temperature for 2 hours. The resulting mixture is diluted with 100 mL of water and 100 mL of ether. The aqueous phase is extracted with ether and the organic phases are then combined, washed with aqueous 1N NaOH solution and then with saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated under vacuum. 3.68 g of the expected product are obtained in the form of a yellow oil, which is used as obtained in the following step. Yield=89%.

reactant | 5-fluoro-2-nitrophenol | 20.0 mmol, 3.14 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | sodium chlorodifluoroacetate | 40.0 mmol, 6.1 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | sodium carbonate | 24.0 mmol, 3.31 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 4N | Cl | ClH
solvent | DMF | 36 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-Difluoromethoxy-4-fluoro-1-nitrobenzene | 3.68 g, Yield=89% | FC(OC1=C(C=CC(=C1)F)[N+](=O)[O-])F | C7H4F3NO3
